Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
latex
 
Attending: ___
 
Chief Complaint:
unsteady gait, fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:

This is a ___ year old right handed woman with a history of
bipolar disorder with multiple recent hospitalizations (last
discharged on ___, DM and HTN who is presenting as a transfer
from ___ with unsteady gait, fall and aphasia. Patient is an
unreliable historian.

The patient was recently discharged from the psych ward at ___ on ___ after a 12 day hospitalization for
depression. During that time metoprolol was added and lithium
consolidated (150mg BID->300mg QHS) and lamictal restarted. This
morning she awoke as usual and said she had increased 
"agitation"
over impending weather. She denies true unsteadiness, says she
felt the "ground was about to open up underneath her".  When
asked what she means she says, "well, you know, with terroism 
and
the tornado". She walked to the store to get some food for the
storm and says that while crossing the street she caught her 
foot
on the wheel of her grocery cart and fell down on her knees. She
was assisted up by passersby and was taken to the ED by a police
officer. At ___ she was reportedly unsteady with a wide based
gate and demonstrated "expressive and receptive aphasia". She 
was
also tremulus and had dysmetria on finger to nose. ___
records state that she woke up with the symptoms so felt that
though she likely have a stroke, she was outside of the window 
so
sent to ___ for neuro eval and MRI.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. 

 
Past Medical History:
PMHx: Bipolar disorder, recent admission for depression,
discharged ___ history of suicide attempt, once in the
 past, ___ years ago (lithium overdose); noninsulin dependent
diabetes mellitus; hypothyroidism; chronic renal failure with
baseline BUN and creatinine about ___ and 1.4-1.6 
respectively;
history of a benign renal tumor on the left
kidney; hypercholesterolemia; history of breast cancer; history
of colon polyps; three tubular adenoma on colonoscopy in ___
by Dr. ___ at ___ a subsequent colonoscopy in ___ had 2
tubular adenomas

PAST SURGICAL HISTORY:  Status post bilateral mastectomy, status
post appendectomy and status post partial nephrectomy of the 
left
kidney via 10th rib extrapleural extraperitoneal approach by Dr.
___ in ___.
       

 
Social History:
___
Family History:
no neurologic problems

 
Physical Exam:
Exam on admission:

Vitals: T98.5  HR 84  BP 127/74  RR 18  98% 2L
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, 
Pulmonary: CTABL
Cardiac: RRR
Extremities: no edema,tremulous. abrasions on both knees

Neurologic:
-Mental Status: Alert, oriented x 3.  Very tangential with
history.  Inattentive, unable to name ___ backward (gets 2 
months
in and then starts randomly saying months).  Language is fluent
with intact repetition and comprehension.  Normal prosody.  
There
were no paraphasic errors.  Pt. was able to name both high and
low frequency objects.  Able to read without difficulty. 
Accurately described scene on stroke card but with odd extra
narration. Speech was not dysarthric. Able to follow both 
midline
and appendicular commands. Pt. was able to register 3 objects 
and
recall ___ at 5 minutes, ___ with prompting.  There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
Had resting and postural tremors,
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
-Sensory: No deficits to light touch, pinprick. decreased joint
position sense in both toes

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  2  2    2    2   0

Plantar response was flexor bilaterally.
-Coordination: No intention tremor, could not follow command
properly to assess rapid alternating movements . No dysmetria on
FNF or HKS bilaterally.
-Gait: severe unsteadiness when standing. Wide base and quickly
fell backwards.  

Exam on discharge:
VSS
General: Awake, cooperative, NAD.

Neurologic:
-Mental Status: alert, fully oriented, appropriately conversant 
with some tangentiality and occasional flowery metaphors

-Cranial Nerves:
II: PERRL 
III, IV, VI: EOMI without nystagmus.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact
XII: Tongue protrudes in midline.
-Motor: Normal bulk, some cogwheeling L > R especially with 
activation of contralateral hand. No asterixis or pronator 
drift. Coarse postural tremor.  Strength intact in all 
extremities in flexors & extensors proximally & distally
-Coordination: No dysmetria on FNF
-Gait: some unsteadiness and spontaneous & induced retropulsion. 
Impaired tandem gait
 
Pertinent Results:
___ 09:39PM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 09:39PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 09:39PM URINE  RBC-19* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-15 TRANS EPI-5
___ 09:39PM URINE  WBCCLUMP-MANY MUCOUS-RARE
___ 09:39PM URINE  EOS-NEGATIVE  
___ 08:59PM   CK-MB-3 cTropnT-0.02*
___ 05:02PM URINE  HOURS-RANDOM CREAT-87 SODIUM-21 
POTASSIUM-28 CHLORIDE-20
___ 05:02PM URINE  HOURS-RANDOM
___ 05:02PM URINE  UHOLD-HOLD
___ 05:02PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-POS
___ 01:10PM   GLUCOSE-120* UREA N-29* CREAT-2.3* SODIUM-143 
POTASSIUM-4.2 CHLORIDE-106 TOTAL CO2-27 ANION GAP-14
___ 01:10PM   estGFR-Using this
___ 01:10PM   CALCIUM-10.8* PHOSPHATE-3.4 MAGNESIUM-2.5
___ 01:10PM   TSH-0.93
___ 01:10PM   LITHIUM-0.6
___ 01:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:10PM   WBC-8.8 RBC-4.30 HGB-13.1 HCT-39.2 MCV-91 
MCH-30.4 MCHC-33.4 RDW-13.3
___ 01:10PM   NEUTS-79.9* LYMPHS-14.5* MONOS-4.2 EOS-1.1 
BASOS-0.3
___ 01:10PM   PLT COUNT-306
___ 01:10PM   ___ PTT-33.5 ___

MR brain and MRA head & neck ___:

MR BRAIN:  There is no abnormally slow focus of diffusion to 
suggest 
infarction.  Ventricles and sulci are enlarged, reflecting 
parenchymal volume 
loss.  Note is made of multifocal bilateral white matter 
cerebral T2-weighted 
and FLAIR hyperintensities, indicative of chronic microvascular 
disease.  
There is no intracranial hemorrhage.  Primary intracranial flow 
voids are 
normal. 
  
MR ANGIOGRAM OF THE BRAIN:  Primary intracranial arterial 
structures show 
appropriate flow-related signal hyperintensity.  There are no 
luminal caliber 
irregularities to suggest thrombolic filling defect, aneurysm or 
dissection.  
Anatomy is conventional in orientation. 
  
MR ANGIOGRAPHY OF THE NECK:  Note that non-contrast 
time-of-flight imaging was 
performed, due to the patient's inability to receive contrast.  
Technique is 
limited at the origins of the common carotid and vertebral 
arteries 
bilaterally, and thus those segments are not well evaluated.  
However, luminal 
caliber of the distal common carotid arteries, vertebral 
arteries and internal 
carotid arteries are normal bilaterally, with no evidence of 
pseudoaneurysm, 
dissection or thromboembolic filling defect.  There is no 
hemodynamically 
significant stenosis. 
  
IMPRESSION: 
1.  No abnormally slow focus of diffusion to suggest infarction 
and no 
intracranial hemorrhage. 
2.  Normal evaluation of the arterial vasculature of the head 
and neck. 

___ Renal u/s:
FINDINGS: 
  
Small bilateral highly echogenic renal cortices are seen.  The 
right kidney 
measures 9 cm in craniocaudal dimension and the left kidney 
measures 9.4 cm in 
craniocaudal dimension.  Minimal renal pelviectasis is noted 
bilaterally, 
slightly more prominent on the left. However, there is no 
significant 
underlying obstructive uropathy. Note of two small left sided 
anechoic renal 
cysts are noted. 
  
Well-distended urinary bladder is noted without significant wall 
thickening, 
internal debris or obvious mass.  Ureteral jets are noted. 
  
IMPRESSION: 
1.  Small echogenic kidneys consistent with diffuse renal 
parenchymal disease. 
No evidence of significant obstructive uropathy. 
2.  Two small left simple renal cysts. 
3.  Normal urinary bladder. 

 
Brief Hospital Course:
This is a ___ year old right-handed woman with a history of 
bipolar disorder with multiple recent hospitalizations (last 
discharged on ___, DM and HTN who is presenting as a transfer 
from ___ with unsteady gait, fall and a question of aphasia. 
The time of onset and description of symptoms is difficult to 
ascertain given that pt is a poor historian and there were no 
family or witnesses. On speaking to her it appears that she 
recalls what appears to have been a mechanical fall where her 
foot got caught in the wheels of a shopping cart but before this 
never noticed any unsteady gait or difficulty understanding or 
producing language. On her initial exam she was noted to be 
diffusely tremulous, have poor attention, a postural tremor and 
unsteadiness. She does say odd/eccentric things and needs 
frequent refocusing but there is no language disorder. She was 
also in acute on chronic renal failure. 
On re-exam on ___, pt has clear signs of mild parkinsonism 
(cogwheeling, en bloc turning, retropulsion); however, her gait 
is mostly stable, and per ___, she will be able to return home 
with home or outpt ___. Overall, her presentation is most 
consistent with effects of psychiatric polypharmacy. 
During this admission, pt was maintained on her previous 
medications. Her presentation was discussed with both her 
prescribing psychiatrist, Dr. ___ her psychiatric 
therapist, Dr. ___. It was agreed to leave her psychiatric 
medications unchanged until outpatient follow up. 
The acute-on-chronic renal failure (with an initial Cr of 2.3) 
was worked up with an unrevealing urinalysis & sediment, 
negative eosinophils, negative post-void bladder scan, and a 
renal ultrasound, which showed small echogenic kidneys 
consistent with medical renal disease but no obstructive 
uropathy. Cr improved to 1.8 on day 2 after IV fluids, and 
remained at this level on day 3 of the hospitalization. This may 
be pt's new baseline. 
Pt was found to have a urinary tract infection, and was treated 
with a 5-day course of ciprofloxacin, of which she received 2 
days in house. 
As pt was unsure whether her home medications were arranged 
correctly in her pillbox at home, she was given individual doses 
of all her medications in 2 separate bags for the evening of 
discharge and the next morning. Pt will call her ___ to come the 
day after discharge to organize her pillbox. 

 
Medications on Admission:
Meds: from ___ discharge summary, confirmed with patient
      1.  Acetaminophen 650 mg p.o. q. 4 hours p.r.n. pain or
headache (analgesic,
      antipyretic).
      2.  Aspirin 81 mg p.o. daily (cardiovascular medication).
      3.  Atorvastatin 80 mg p.o. daily (antilipemic).
      4.  Bupropion SR 150 mg p.o. q. a.m. (antidepressant).
      5.  Docusate sodium 100 mg p.o. b.i.d. (laxative).
      6.  Glipizide 5 mg p.o. daily (hypoglycemic).
      7.  Lamotrigine 25 mg p.o. daily (mood stabilizer).
      8.  Lorazepam 0.5 mg p.o. t.i.d. p.r.n. anxiety
(anxiolytic).
      9.  Multivitamin 1 tablet daily (vitamin supplementation).
      10.  Omeprazole 20 mg p.o. b.i.d. (GERD).
      11.  Polyethylene glycol 17 g p.o. daily (laxative).
      12.  Quetiapine 300 mg p.o. daily, 600 mg at bedtime (mood
stabilizer,
      antidepressant).
      13.  Senna 1 tab p.o. daily (laxative).
      14.  Zolpidem 10 mg p.o. at bedtime (hypnotic).
      15.  Metoproplol XL 25mg p.o. daily (antihypertensive)
      16. Lithium 300mg QHS

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*1 Tablet 
Refills:*0
2. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0
3. BuPROPion (Sustained Release) 150 mg PO QAM 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0
4. Ciprofloxacin HCl 250 mg PO Q24H Duration: 5 Days 
RX *ciprofloxacin 250 mg 1 tablet(s) by mouth daily for three 
days Disp #*3 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*2 Capsule Refills:*0
6. GlipiZIDE 5 mg PO DAILY 
RX *glipizide 5 mg 1 tablet(s) by mouth daily Disp #*1 Tablet 
Refills:*0
7. LaMOTrigine 25 mg PO BID 
RX *lamotrigine 25 mg 1 tablet(s) by mouth twice a day Disp #*2 
Tablet Refills:*0
8. Lithium Carbonate 300 mg PO QHS 
RX *lithium carbonate 300 mg 1 capsule(s) by mouth at bedtime 
Disp #*1 Capsule Refills:*0
9. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
10. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*1 Tablet Refills:*0
11. Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*2 
Capsule Refills:*0
12. Polyethylene Glycol 17 g PO DAILY 
13. Quetiapine extended-release 300 mg PO DAILY 
RX *quetiapine 300 mg 1 tablet(s) by mouth daily Disp #*1 Tablet 
Refills:*0
14. Quetiapine extended-release 600 mg PO HS 
RX *quetiapine 300 mg 2 tablet(s) by mouth at bedtime Disp #*2 
Tablet Refills:*0
15. Zolpidem Tartrate 10 mg PO HS 
RX *zolpidem 10 mg 1 tablet(s) by mouth at bedtime Disp #*1 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gait imbalance, possible medication side effect

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were admitted after a fall. This was likely a mechanical 
fall, where your foot got caught in the wheels of a shopping 
cart. However, on physical exam we discovered that you were a 
little bit unsteady on your feet. We obtained an MRI of your 
brain, and there was nothing of concern on that. Specifically, 
you did not have a stroke. 
Your unsteadiness is likely secondary to your psychiatric 
medications. This may improve as you get used to the new doses 
of the medications. However, you should also discuss this issue 
with your psychiatrist, to see if some of your medications can 
be changed.
Incidentally, we discovered that you have a urinary tract 
infection. Please finish the antibiotic course that you started 
in the hospital: we will give you three more days of 
ciprofloxacin tablets.

Please follow up with your primary care physician and your 
psychiatrists.
 
Followup Instructions:
___